US04544659
1.0 g of 9-chloroacridine, 0.926 g of 2-hydrazino-2-thiazoline hydrobromide and 0.767 g of anhydrous sodium acetate are dissolved in 100 ml of dry ethanol, heated to boiling under reflux for 2 hours and the red solution is then evaporated in vacuo. The residue is treated with water and the crystalline mass is filtered under suction. After recrystallization from ethanol, there is obtained 9-acridanone (2-thiazolidinylidene)hydrazone of melting point 212°-216° (decomposition).

reactant | 9-chloroacridine | 1.0 g | ClC=1C2=CC=CC=C2N=C2C=CC=CC12 | C13H8ClN
reactant | 2-hydrazino-2-thiazoline hydrobromide | 0.926 g | Br.N(N)C=1SCCN1
reactant | sodium acetate | 0.767 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 9-acridanone (2-thiazolidinylidene)hydrazone | S1C(NCC1)=NN=C1C2=CC=CC=C2NC=2C=CC=CC12 | C16H14N4S
